* Native multistage compensation measurements. SPDX-License-Identifier: MIT
.lib /workspace/support/models/cornerMOSlv.lib mos_tt
.lib /workspace/support/models/cornerCAP.lib cap_typ
.lib /workspace/support/models/cornerRES.lib res_typ
.include parameters.spice
.include dut.spice
.temp 27
.option rshunt=1e12 reltol=1e-5 abstol=1e-14 vntol=1e-8 method=gear maxord=2
VDD vdd 0 1.2
VIN vp 0 dc 0.5 pulse(0.5 0.7 2u 20n 20n 8u 16u)
IBIAS net013 0 3e-06
VPROBE vm vout dc 0 ac 1
CLOAD vout 0 {load_f}
XDUT 0 vdd vm vp vout net013 amp_009_leung_nmcnr
.control
set noaskquit
set numdgt=12
op
let output_v=v(vout)
let bias_v=v(net013)
let power_w=-v(vdd)*i(VDD)
print output_v bias_v power_w
write op.raw v(vout) v(net013) i(VDD)
ac dec 150 0.01 100meg
let transfer=-v(vout)/v(vm)
let gain_db=db(transfer)
let phase_deg=180*cph(transfer)/pi
meas ac dc_gain_db find gain_db at=0.01
meas ac unity_hz when gain_db=0 fall=1
meas ac phase_at_unity find phase_deg when gain_db=0 fall=1
let phase_margin_deg=180+phase_at_unity
print phase_margin_deg
write ac.raw frequency v(vout) v(vm) transfer gain_db phase_deg
tran 2n 18u 0 2n
let error_v=abs(v(vout)-v(vp))
let supply=-v(vdd)*i(VDD)
meas tran recovery_up_v max error_v from=5u to=9.5u
meas tran recovery_down_v max error_v from=13u to=17.5u
meas tran high_v avg v(vout) from=9u to=9.5u
meas tran low_v avg v(vout) from=17u to=17.5u
let step_gain=(high_v-low_v)/0.2
meas tran mean_power_w avg supply from=2u to=18u
meas tran peak_v max v(vout) from=2u to=10u
meas tran trough_v min v(vout) from=10.04u to=18u
print step_gain
write transient.raw v(vout) v(vp) i(VDD)
quit
.endc
.end
